US06689909B1
4-Iodo-3-fluoro-2-methylaniline
Iodine monochloride (0.5 ml) was added to a solution of 3-fluoro-2-methylaniline (1.25 g) in glacial acetic acid (15 ml). The mixture was stirred for two hours at 70° C. The mixture was allowed to cool to ambient temperature and saturated sodium sulphite solution (50 ml) was added. The solution was extracted with EtOAc (2×100 ml), and the extracts were combined, washed with saturated sodium bicarbonate solution (100 ml) and dried. The volatile material was removed by evaporation and the residue was purified by chromatography on silica gel, eluted with 0-10% EtOAc in hexane to give the title compound (1.53 g) as a solid. NMR: 1.98 (s, 3H), 5.32 (s, 2H), 6.30 (d, 1H), 7.20 (t, 1H); m/z: 250.

reactant | Iodine monochloride | 0.5 ml | ICl | ClI
reactant | 3-fluoro-2-methylaniline | 1.25 g | FC=1C(=C(N)C=CC1)C | C7H8FN
reactant | sodium sulphite | 50 ml | S(=O)([O-])[O-].[Na+].[Na+]
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
product | 4-Iodo-3-fluoro-2-methylaniline | 1.53 g | IC1=C(C(=C(N)C=C1)C)F | C7H7FIN
